US04234517
84 g (1.5 mols) of isobutylene and 10.0 g (0.099 mol) of triethylamine are heated in an autoclave to 120° C. A solution of 17.35 g (0.1 mol) of 4,4-dichlorobut-3-enecarboxylic acid chloride in 35 ml of diethyl ether is then injected in the course of 30 minutes, and the reaction mixture is stirred at 120° C. for 2 hours. After cooling, the reaction mixture is triturated with diethyl ether. Solid constituents are filtered off, and the filtrate is subsequently washed with 1 N sulphuric acid (2×30 ml) as well as with 1% sodium bicarbonate solution (3×50 ml). After drying over sodium sulphate, concentration by evaporation is performed, and the residue is distilled in a bulb tube to yield 2-(2',2'-dichlorovinyl)-3,3-dimethylcyclobutanone as colourless oil; b.p. 100°-110° C./0.5 Torr.

reactant | isobutylene | 1.5 mols, 84 g | CC(C)=C | C4H8
reactant | triethylamine | 0.099 mol, 10.0 g | C(C)N(CC)CC | C6H15N
reactant | 4,4-dichlorobut-3-enecarboxylic acid chloride | 0.1 mol, 17.35 g | ClC(=CCCC(=O)Cl)Cl | C5H5Cl3O
reactant | diethyl ether | 35 ml | C(C)OCC | C4H10O
product | 2-(2',2'-dichlorovinyl)-3,3-dimethylcyclobutanone | ClC(=CC1C(CC1(C)C)=O)Cl | C8H10Cl2O
